US07635684B2
3-Benzylaminopropionamide
To a solution of acrylamide (32 g) in ethanol (450 mL) was added benzylamine (59 mL), and the mixture was stirred at 60° C. overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1-dichloromethane/methanol=50/1) to give the title compound (73.2 g).

reactant | acrylamide | 32 g | C(C=C)(=O)N | C3H5NO
reactant | benzylamine | 59 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | ethanol | 450 mL | C(C)O | C2H6O
product | 3-Benzylaminopropionamide | 73.2 g | C(C1=CC=CC=C1)NCCC(=O)N | C10H14N2O
